US08013154B2
3-Chloro-2,4,5,6-tetrafluoropyridine (18.0 g, 97.0 mmol) was dissolved in anhydrous THF (100 mL) under an N2 atmosphere and the resulting solution cooled to −78° C. To the cold solution was slowly added a solution of sodium 2,2,2-trifluoroehtoxide (97 mmol), prepared from trifluoroethanol (7.1 mL, 97.0 mmol) and NaH (3.88 g, 97.0 mmol, 60% dispersion in mineral oil), in anhydrous THF (100 mL). The resulting mixture was slowly warmed to ambient temperature. After 18 h at ambient temperature a GC analysis indicates all the starting material was consumed. The volatiles were evaporated and the residue dissolved in CH2Cl2 (200 mL). The organics were washed with H2O (3×100 mL), dried (MgSO4), filtered and concentrated to give the crude product as a yellow oil. The yellow oil was distilled at reduced pressure to afford 3-chloro-2,5,6-trifluoro-4-(2,2,2-trifluoroethoxy)pyridine as a clear oil (16.3 g, 63% yield): bp 48° C. (ca 0.2 mm Hg); 1H NMR (CDCl3) δ 4.81-4.78 (dq, J=1.6, 7.7 Hz); GC-MS (El, 70 eV) m/z (% relative intensity) 267 (33), 265 (100), 248 (5), 246 (16), 198 (22), 196 (60).

reactant | 3-Chloro-2,4,5,6-tetrafluoropyridine | 97.0 mmol, 18.0 g | ClC=1C(=NC(=C(C1F)F)F)F | C5ClF4N
reactant | sodium | 97 mmol | [Na] | Na
reactant | trifluoroethanol | 97.0 mmol, 7.1 mL | C(C(F)(F)F)O | C2H3F3O
reactant | NaH | 97.0 mmol, 3.88 g | [H-].[Na+]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 3-chloro-2,5,6-trifluoro-4-(2,2,2-trifluoroethoxy)pyridine | 16.3 g, 63% yield | ClC=1C(=NC(=C(C1OCC(F)(F)F)F)F)F | C7H2ClF6NO
